US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-fluoro[1,3]thiazolo[5,4-b]pyridin-2(1H)-one Dihydrochloride
(6-fluoro-2-oxo[1,3]thiazolo[5,4-b]pyridin-1(2H)-yl)acetaldehyde (0.046 g, 0.22 mmole) and 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate (0.069 g, 0.2 mmole) (for a synthesis see WO2004/058144 Example 99(h)) were dissolved in chloroform (5 ml) and MeOH (1 ml) and treated with acetic acid (10 drops) and (polystyrylmethyl)trimethylammonium cyanoborohydride (Novabiochem) (4.1 mmol/g, 0.39 g), and the mixture stirred at rt for 60 h. The reaction was filtered and evaporated to dryness to give 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl) {1-[2-(6-fluoro-2-oxo[1,3]thiazolo[5,4-b]pyridin-1(2H)-yl)ethyl]-4-piperidinyl}. This was dissolved in DCM (3 ml) and treated with trifluoroacetic acid (1 ml) at rt for 4 h then evaporated to dryness. The residue was dissolved in MeOH, stirred with polymer supported carbonate resin and then filtered and evaporated. Chromatography on silica gel of the residue, eluting with a gradient of 0-12% 2M ammonia in MeOH/DCM gave the free base of the title compound (0.05 g, 51%)

reactant | (6-fluoro-2-oxo[1,3]thiazolo[5,4-b]pyridin-1(2H)-yl)acetaldehyde | 0.22 mmole, 0.046 g | FC=1C=C2C(=NC1)SC(N2CC=O)=O | C8H5FN2O2S
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate | 0.2 mmole, 0.069 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | MeOH | 1 ml | CO | CH4O
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-6-fluoro[1,3]thiazolo[5,4-b]pyridin-2(1H)-one Dihydrochloride | 0.05 g, 51% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(SC1=NC=C(C=C12)F)=O | InChI=1S/C21H24FN5O3S.2ClH/c22-14-9-17-20(25-11-14)31-21(28)27(17)6-5-26-3-1-15(2-4-26)23-12-16-10-18-19(13-24-16)30-8-7-29-18;;/h9-11,13,15,23H,1-8,12H2;2*1H
